US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 4-methoxybenzaldehyde (1.0 g) and 4-octylaniline (1.4 g) as starting materials, [(4-methoxyphenyl)methyl](4-octylphenyl)amine (2.2 g) was obtained.

reactant | 4-methoxybenzaldehyde | 1.0 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 4-octylaniline | 1.4 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
product | [(4-methoxyphenyl)methyl](4-octylphenyl)amine | 2.2 g | COC1=CC=C(C=C1)CNC1=CC=C(C=C1)CCCCCCCC | C22H31NO
